US08604210B2
Synthesis of 3-(4-iodophenyl)-1-(pyrimidin-2-yl)-1H-pyrazol-5-ol (19)
Ethyl 4-iodobenzoylacetate (10 mmol, manufactured by Aldrich) and ethanol (10 mL) were charged in a 100 mL round-bottom flask to which a solution of 2-hydrazinopyrimidine (10 mmol, manufactured by Aldrich) in ethanol (10 mL) was then added. After being stirred at 100° C. for 8 hours, the reaction liquid was cooled at room temperature. The resulting solid was filtered, washed with ethanol and hexane, and then dried under vacuum to afford the title compound.

reactant | Ethyl 4-iodobenzoylacetate | 10 mmol | IC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C11H11IO3
reactant | 2-hydrazinopyrimidine | 10 mmol | N(N)C1=NC=CC=N1 | C4H6N4
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-(4-iodophenyl)-1-(pyrimidin-2-yl)-1H-pyrazol-5-ol | Yield: 49% | IC1=CC=C(C=C1)C1=NN(C(=C1)O)C1=NC=CC=N1 | C13H9IN4O
